US05498777
2-Chloro-3-nitrobenzoic acid (8.06 g, 0.04 mol) in 1N sodium hydroxide (50 mL) was added to a polysulfide solution made from sodium sulfide nonahydrate (28.82 g, 0.12 mol) and sulfur (9.60 g, 0.30 mol) in water (30 mL). The resulting mixture was stirred and heated at reflux for 5.5 hours. The reaction mixture was cooled to 45° C., treated with carbon disulfide (4.81 mL, 0.08 mL), and stirred at 45° C. for 20 hours. The mixture was cooled in an ice bath and neutralized by slowly adding acetic acid (7 g). The solid precipitate was collected, washed with ice-cold water, suspended in saturated sodium carbonate solution (100 mL), and filtered to remove insolubles. The filtrate was acidified with acetic acid (33 g) and filtered to collect the insoluble material. The filter cake was dried under vacuum to afford crude 7-carboxy-2-mercaptobenzothiazole (0.70 g) as a brownish gray solid.

reactant | 2-Chloro-3-nitrobenzoic acid | 0.04 mol, 8.06 g | ClC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4ClNO4
reactant | sodium sulfide nonahydrate | 0.12 mol, 28.82 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | sulfur | 0.30 mol, 9.60 g | [S] | S
reactant | carbon disulfide | 4.81 mL | C(=S)=S | CS2
solvent | sodium hydroxide | 1N, 50 mL | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
solvent | acetic acid | 7 g | C(C)(=O)O | C2H4O2
product | 7-carboxy-2-mercaptobenzothiazole | 0.70 g | C(=O)(O)C1=CC=CC=2N=C(SC21)S | C8H5NO2S2
